US04908371
With stirring, 0.56 ml of triethylamine is added at room temperature to a suspension of 0.556 g of 3-hydroxy-1,2-dimethyl-4(1H)-pyridinone in 40 ml of acetonitrile and 40 ml of methylene chloride, followed by the addition of 1.02 ml of caprylyl chloride. A solution forms within 3 minutes and after 30 minutes the reaction is complete, and the volatile constituents are removed by evaporation under reduced pressure. The residue is dried under a high vacuum and crystallised from a mixture of methylene chloride and ethyl acetate. The 3-(n-octanoyloxy)-1,2-dimethyl-4-(1H)-pyridinone so obtained begins to sinter at 140° C. and decomposes at 180° C.

reactant | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-1,2-dimethyl-4(1H)-pyridinone | 0.556 g | OC1=C(N(C=CC1=O)C)C | C7H9NO2
reactant | caprylyl chloride | 1.02 ml | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-(n-octanoyloxy)-1,2-dimethyl-4-(1H)-pyridinone | C(CCCCCCC)(=O)OC1=C(N(C=CC1=O)C)C | C15H23NO3
